US07288544B2
Synthesis of 4-(3-chlorophenyl)-2,6-dimethyl-5-[4-(2-hydroxyethyl) piperazine-1-carbonyl) nicotinic acid (3,3-diphenylpropyl) ester
118 mg (0.620 mmol) of WSC hydrochloride and 80 mg (0.610 mmol) of 1-(2-hydroxyethyl) piperazine in the ice bath were added to 252 mg (0.510 mmol) of 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (3,3-diphenylpropyl) ester in 8 ml of dichloromethane and stirred at room temperature overnight. Saturated aqueous sodium hydrogencarbonate solution was added and the reaction mixture was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was dissolved in 8 ml of dichloromethane. 4 ml of trifluoroacetic acid was added in the ice bath and stirred at room temperature for 9 hours. The reaction mixture was concentrated under reduced pressure, followed by basifying with 1N NaOH aq. After extracting it with ethyl acetate, The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the basic silica gel chromatography (chloroform/methanol=1000/1) to obtain the title compound.

reactant | WSC hydrochloride | 0.620 mmol, 118 mg | CCN=C=NCCCN(C)C.Cl
reactant | 1-(2-hydroxyethyl) piperazine | 0.610 mmol, 80 mg | OCCN1CCNCC1 | C6H14N2O
reactant | 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (3,3-diphenylpropyl) ester | 0.510 mmol, 252 mg | C1(=CC=CC=C1)C(CCOC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(=O)O)C)C)C1=CC=CC=C1 | C30H28ClNO4
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 4-(3-chlorophenyl)-2,6-dimethyl-5-[4-(2-hydroxyethyl) piperazine-1-carbonyl) nicotinic acid (3,3-diphenylpropyl) ester | C1(=CC=CC=C1)C(CCOC(C1=C(N=C(C(=C1C1=CC(=CC=C1)Cl)C(=O)N1CCN(CC1)CCO)C)C)=O)C1=CC=CC=C1 | C36H38ClN3O4
